US03941821
α-Diethylcarbamylthio-2'-chloro-4-biphenylylacetic acid
When diethylcarbamylchloride is replaced in the above procedure by carbamyl chloride (prepared in situ from potassium cyanate and anhydrous hydrogen chloride in anhydrous chloroform), ethylcarbamyl chloride or dimethylcarbamyl chloride, then the products prepared are α-carbamylthio2'-chloro-4-biphenylylacetic acid, α-ethylcarbamylthio-2'-chloro-4-biphenylylacetic acid or α-dimethylcarbamylthio-2'-chloro-4-biphenylylacetic acid.

reactant | diethylcarbamylchloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | carbamyl chloride | C(N)(=O)Cl | CH2ClNO
reactant | ethylcarbamyl chloride | C(C)NC(=O)Cl | C3H6ClNO
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | α-carbamylthio2'-chloro-4-biphenylylacetic acid | C(N)(=O)SC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C15H12ClNO3S
reactant | α-ethylcarbamylthio-2'-chloro-4-biphenylylacetic acid | C(C)NC(=O)SC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C17H16ClNO3S
reactant | α-dimethylcarbamylthio-2'-chloro-4-biphenylylacetic acid | CN(C(=O)SC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)C | C17H16ClNO3S
product | α-Diethylcarbamylthio-2'-chloro-4-biphenylylacetic acid | C(C)N(C(=O)SC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)CC | C19H20ClNO3S
